US04642365
Pyrocatechol (0.856 g, 7.77 mM) was dissolved in 32 ml of ether and, using 1.573 g (15.54 mM) of triethylamine and 1.484 g (7.77 mM) of n-propyl dichlorophosphate, the reaction was carried out at -30° C. to -25° C. and the reaction mixture treated in the same manner as in Reference Example 1. There was obtained 1.695 g (95.6% yield) of n-propyl o-phenylene phosphate as a viscous oil (slightly turbid).

reactant | Pyrocatechol | 7.77 mM, 0.856 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | triethylamine | 15.54 mM, 1.573 g | C(C)N(CC)CC | C6H15N
reactant | n-propyl dichlorophosphate | 7.77 mM, 1.484 g | P(=O)(OCCC)(Cl)Cl | C3H7Cl2O2P
solvent | ether | 32 ml | CCOCC | C4H10O
product | n-propyl o-phenylene phosphate | 1.695 g, 95.6% yield | P1(=O)(OCCC)OC2=C(C=CC=C2)O1 | C9H11O4P
